US07709645B2
2,2-dimethyl-propionic acid 5-bromo-3-(2-ethyl-2H-pyrazol-3-yl)-pyrrolo[2,3-b]pyridin-1-ylmethyl ester, 2-amino-N,N-dimethyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide, [1,1′-bis(diphenylphosphino)-ferrocene]dichloro-palladium(II) complex with dichloromethane, acetonitrile, 1M aqueous sodium carbonate solution, and tetrahydrofuran were combined in a microwave vial. The tube was placed in a microwave reactor and irradiated to 120° C. for 20 minutes. The reaction mixture was concentrated in vacuo and the residue partitioned between dichloromethane and water. The organic layer was dried over sodium sulfate and concentrated. The crude product was purified by flash chromatography (0 to 100% [10% methanol in ethyl acetate] in hexanes) to give 2,2-dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(2-ethyl-2H-pyrazol-3-yl)-pyrrolo[2,3-b]pyridin-1-ylmethyl ester. MS: m/z 489.3 (M+H+).

reactant | 2,2-dimethyl-propionic acid 5-bromo-3-(2-ethyl-2H-pyrazol-3-yl)-pyrrolo[2,3-b]pyridin-1-ylmethyl ester | BrC=1C=C2C(=NC1)N(C=C2C=2N(N=CC2)CC)COC(C(C)(C)C)=O | C18H21BrN4O2
reactant | 2-amino-N,N-dimethyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | NC1=C(C(=O)N(C)C)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H23BN2O3
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium carbonate | 1M | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2,2-dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(2-ethyl-2H-pyrazol-3-yl)-pyrrolo[2,3-b]pyridin-1-ylmethyl ester | NC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2N(N=CC2)CC)COC(C(C)(C)C)=O)C(N(C)C)=O | C27H32N6O3
